US08461328B2
A mixture 1-benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine (0.50 g, 1.50 mmol) and tetrahydro-thiopyran-4-ylamine (0.19 g, 1.60 mmol) and DIEA (0.52 mL, 3.00 mmol) in IPA (4 mL) was heated in a microwave reactor at 120° C. for 10 minutes. The mixture was diluted with EtOAc, washed with water, brine, dried over sodium sulfate and then purified by column chromatography on silica gel (gradient: 0 to 30% ethyl acetate/heptane) to afford (1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-yl)-(tetrahydro-thiopyran-4-yl)-amine (0.53 g, 86%). 1H NMR (400 MHz, CDCl3) δ 9.18-9.03 (m, 2H), 8.26-8.12 (m, 2H), 7.70-7.46 (m, 4H), 6.65 (d, J=4.2 Hz, 1H), 4.07-3.91 (m, 1H), 2.88-2.70 (m, 4H), 2.49-2.34 (m, 2H), 2.05-1.76 (m, 2H).

reactant | 1-benzenesulfonyl-4-chloro-5-nitro-1H-pyrrolo[2,3-b]pyridine | 1.50 mmol, 0.50 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2Cl)[N+](=O)[O-] | C13H8ClN3O4S
reactant | tetrahydro-thiopyran-4-ylamine | 1.60 mmol, 0.19 g | S1CCC(CC1)N | C5H11NS
reactant | DIEA | 3.00 mmol, 0.52 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | IPA | 4 mL | CC(C)O | C3H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (1-benzenesulfonyl-5-nitro-1H-pyrrolo[2,3-b]pyridin-4-yl)-(tetrahydro-thiopyran-4-yl)-amine | 0.53 g, 86% | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2NC2CCSCC2)[N+](=O)[O-] | C18H18N4O4S2
